US07939528B2
To a solution 2-methyl-2,3-dihydro-1H-indene-2-carboxylic acid (0.200 g, 1.14 mmol) and triethylamine (0.166 mL, 1.19 mmol) in 2 mL of benzene at to 0 degrees Centigrade was added diphenyl phosphorylazide (0.257 g, 1.19 mmol). The reaction mixture was stirred for 15 minutes and benzyl alcohol (0.123 mL, 1.19 mmol) was added and the reaction was heated to reflux for 16 hours, then cooled and 10% HCl was added. The organics were extracted 2×25 mL ethyl acetate, then washed 1× brine, dried (Na2SO4), filtered and concentrated. The residue was chromatographed on silica using 5:1 hexanes/ethyl acetate to give 0.271 g of the phenylmethyl (2-methyl-2,3-dihydro-1H-inden-2-yl)carbamate.

reactant | 2-methyl-2,3-dihydro-1H-indene-2-carboxylic acid | 1.14 mmol, 0.200 g | CC1(CC2=CC=CC=C2C1)C(=O)O | C11H12O2
reactant | triethylamine | 1.19 mmol, 0.166 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphorylazide | 1.19 mmol, 0.257 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 1.19 mmol, 0.123 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | HCl | Cl | ClH
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
product | phenylmethyl (2-methyl-2,3-dihydro-1H-inden-2-yl)carbamate | 0.271 g | CC1(CC2=CC=CC=C2C1)NC(OCC1=CC=CC=C1)=O | C18H19NO2
